US06399629B1
(P) N-tert-Butoxycarbonyl-trans-4-(N-tert-Butoxycarbonylamino)-L-Prolyl-trans-4-((R)-2-Hydroxy-4-Phenylbutyrylamino)-L-Proline 3-Quinolylamide
Triethylamine (30 μL), 1-hydroxybenzotriazole (28 mg), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (42 mg) were added to a cold (0° C.) stirred solution of N-tert-butoxycarbonyl-trans-4-(N-tert-butoxycarbonylamino)-L-proline (O, 76 mg) and trans-4-((R)-2-hydroxy-4-phenylbutyrylamino)-L-proline 3-quinolylamide(H, 76 mg) in dichloromethane (10 mL). The mixture was stirred at room temperature for 16.5 hr and evaporated in vacuo. The residue was diluted with ethyl acetate and washed with 1 N hydrochloric acid, water, saturated sodium hydrogen carbonate, and brine. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (Whatman, PLK5F Silica Gel 50, 20 cm×20 cm×2 mm, methanol:chloroform=1:20, v/v) to give the title compound (90 mg) as a colorless foam: 1H NMR (400 MHz, CDCl3) δ 1.44 (s, 9H), 1.45 (s, 9H), 1.69-1.84 (m, 5H), 1.90-2.03 (m, 1H), 2.09-2.28 (m, 3H), 2.68-2.83 (m, 3H). 3.39-3.46 (m, 1H), 3.50-3.56 (m, 1H), 3.74-3.81 (m, 1H), 3.93-3.99 (m, 1H), 4.01-4.08 (m, 1H), 4.29-4.37 (m, 1H), 4.45-4.53 (m, 2H), 4.57-4.76 (m, 2H), 4.91-4.98 (m, 1H), 7.15-7.30 (m, 5H), 7.38-7.53 (m, 2H), 7.63-7.70 (m, 1H), 7.81-7.87 (m, 1H), 8.57-8.60 (m, 1H), 8.66-8.70 (br s, 1H), and 9.93 (br s, 1H).

reactant | 1-hydroxybenzotriazole | 28 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 42 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-tert-butoxycarbonyl-trans-4-(N-tert-butoxycarbonylamino)-L-proline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)NC(=O)OC(C)(C)C | C15H26N2O6
reactant | trans-4-((R)-2-hydroxy-4-phenylbutyrylamino)-L-proline 3-quinolylamide | 76 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1NC[C@@H](C1)NC([C@@H](CCC1=CC=CC=C1)O)=O)=O | C24H26N4O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Triethylamine | 30 μL | C(C)N(CC)CC | C6H15N
product | N-tert-Butoxycarbonyl-trans-4-(N-tert-Butoxycarbonylamino)-L-Prolyl-trans-4-((R)-2-Hydroxy-4-Phenylbutyrylamino)-L-Proline 3-Quinolylamide | 90 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@@H](C1)NC([C@@H](CCC1=CC=CC=C1)O)=O)C([C@H]1N(C[C@@H](C1)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)=O | C39H50N6O8
